US07582657B2
(2E)-N-indol-5-yl-3-[2-(6-methoxy(3-pyridyl))-4-(trifluoromethyl)phenyl]-prop-2-enamide
A mixture of (2E)-3-[2-bromo-4-(trifluoromethyl)phenyl]-N-indol-5-ylprop-2-enamide, Example 97, (100 mg, 0.24 mmol), 2-methoxy-5-pyridineboronic acid (60 mg , 0.39 mmol, Digital Specialty Chemicals), tris(dibenzylideneacetone)dipalladium(0) (22 mg, 0.024 mmol, Aldrich) and triphenylphosphine (26 mg, 0.098 mmol, Aldrich) in toluene (1.2 mL), 2.0M aqueous Na2CO3 (0.4 mL) and ethanol (0.4 mL) was stirred at 120° C. overnight. The reaction mixture was filtered through a pad of Celite and diluted with water (50 mL). The aqueous phase was extracted with EtOAc (3×60 mL). The combined extracts were washed with satd NaCl (100 mL), dried over Na2SO4, filtered and concentrated in vacuo. Purification by silica gel chromatography (gradient: 0-20% EtOAc in hexane) provided the title product as a yellow solid. MP 219-221° C. MS (ESI, pos. ion) m/z: 438 (M+1).

reactant | (2E)-3-[2-bromo-4-(trifluoromethyl)phenyl]-N-indol-5-ylprop-2-enamide | BrC1=C(C=CC(=C1)C(F)(F)F)/C=C/C(=O)NC=1C=C2C=CNC2=CC1 | C18H12BrF3N2O
reactant | 2-methoxy-5-pyridineboronic acid | 0.24 mmol, 100 mg | COC1=NC=C(C=C1)B(O)O | C6H8BNO3
reactant | triphenylphosphine | 0.098 mmol, 26 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 1.2 mL | C1(=CC=CC=C1)C | C7H8
solvent | Na2CO3 | 2.0M, 0.4 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | ethanol | 0.4 mL | C(C)O | C2H6O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.024 mmol, 22 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (2E)-N-indol-5-yl-3-[2-(6-methoxy(3-pyridyl))-4-(trifluoromethyl)phenyl]-prop-2-enamide | N1C=CC2=CC(=CC=C12)NC(\C=C\C1=C(C=C(C=C1)C(F)(F)F)C=1C=NC(=CC1)OC)=O | C24H18F3N3O2
